US05447957
b) Methyl 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate
Methyl-2-(nitro-4-trifluoromethylphenoxy)-4-methoxybenzoate (21.65 g 0.058 mol) was dissolved in ethyl acetate and a palladium on carbon catalyst was added under argon. The mixture was hydrogenated in a parr bottle, at 50 psi, for 4 h The mixture was filtered through Celite® and washed with ethyl acetate and methanol. The solvent was evaporated and the residue flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CDCl3) δ7.92 (d, 1H), 7.03 (d, 1H) 6.90 (dd, 1H) 6.68-6.81 (m, 2H) 6.50 (d, 1H) 4.22 (s, 2H) 3.75 (s, 6H).

reactant | Methyl-2-(nitro-4-trifluoromethylphenoxy)-4-methoxybenzoate | 0.058 mol, 21.65 g | COC(C1=C(C=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H12F3NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | Methyl 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate | NC1=C(OC2=C(C(=O)OC)C=CC(=C2)OC)C=CC(=C1)C(F)(F)F | C16H14F3NO4
